US06897306B2
Preparation 83: tert-Butyl (3R)-6-cyclohexyl-3-(3-{[[3-(dimethylamino)propyl](methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (550 mg, 1.40 mmol) in ethanol (2 ml) was treated with N,N,N′-trimethyl-1,3-propanediamine (1.02 ml, 7.00 mmol) and the resulting mixture was heated at 85° C. in a sealed tube for 3 hours. The solvent removed under reduced pressure. The residue was purified by column chromatography on silica eluting with a gradient system of 97:3:0.3 (dichloromethane:methanol:ammonia) gradually changing to 90:10:1 (dichloromethane:methanol:ammonia) to afford the title compound as a colourless oil (512 mg).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 1.40 mmol, 550 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | N,N,N′-trimethyl-1,3-propanediamine | 7.00 mmol, 1.02 ml | CN(CCCNC)C | C6H16N2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-{[[3-(dimethylamino)propyl](methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 512 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N(C)CCCN(C)C | C25H44N4O4
